US05210239
3,5-Diethoxy-4-hydroxybenzoic acid
100 g of 3,4,5-triethoxybenzoic acid was dissolved in 150 ml of a 48% aqueous HBr solution and 300 ml of acetic acid, and the resultant solution was heated at 100° C. for 2 hr while stirring. The reaction mixture was cooled, and the formed precipitate was separated by filtration and washed with water. The solid was recrystallized from 1 l of ethanol to prepare 50 g of the product compound as a white solid.

reactant | 3,4,5-triethoxybenzoic acid | 100 g | C(C)OC=1C=C(C(=O)O)C=C(C1OCC)OCC | C13H18O5
solvent | HBr | Br | BrH
solvent | acetic acid | 300 ml | C(C)(=O)O | C2H4O2
product | 3,5-Diethoxy-4-hydroxybenzoic acid | C(C)OC=1C=C(C(=O)O)C=C(C1O)OCC | C11H14O5
